US05155122
Into a solution containing 10.0 g (0.03 mole) of 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzonitrile, 5.7 ml (0.04 mole) of triethylamine and 14.2 ml (0.18 mole) of pyridine, hydrogen sulfide gas is bubbled over 15 hours. The mixture is poured into ice water (110 ml), and an oily precipitate solidifies upon standing at 0° C. for 15 hours. The solid is thoroughly washed with water and filtered. Recrystallization from ethyl acetate and hexane gives 7.9 g (71%) of analytically pure 3,5-bis(1,1-dimethylethyl) -4-[2-methoxyethoxy)methoxy]benzenecarbothioamide, mp 113°-115° C.

reactant | 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzonitrile | 0.03 mole, 10.0 g | CC(C)(C)C=1C=C(C#N)C=C(C1OCOCCOC)C(C)(C)C | C19H29NO3
reactant | triethylamine | 0.04 mole, 5.7 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.18 mole, 14.2 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrogen sulfide | S | H2S
product | benzenecarbothioamide | C1(=CC=CC=C1)C(N)=S | C7H7NS
